US09210927B2
Preparation of 3-Chloro-4-((pyridin-2-ylamino)methyl)benzaldehyde (CI58)
To a stirred solution of 4-(bromomethyl)-3-chlorobenzaldehyde (2 g, 9 mmol) in N,N-dimethylacetamide (DMA; 20 mL) was added K2CO3 (2.36 g, 17.16 mmol) and 2-aminopyridine (0.84 g, 8.58 mmol), and the reaction mixture was stirred at ambient temperature for 4 h. The reaction mixture was diluted with H2O and extracted with EtOAc. The combined organic layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by flash column chromatography (SiO2, 100-200 mesh; 20% EtOAc in n-Hexane) to afford the title compound as off-white solid (1.05 g, 50%): mp 122-123° C.; 1H NMR (400 MHz, CDCl3) δ 9.94 (s, 1H), 8.11 (s, 1H), 7.88 (s, 1H), 7.72 (d, J=4.8 Hz, 1H), 7.62 (d, J=5.7 Hz, 1H), 7.4 (m, 1H), 6.64 (d, J=3.9 Hz, 1H), 6.38 (d, J=6.3 Hz, 1H), 5.04 (br s, 1H), 4.71 (s, 2H); ESIMS m/z 246.97 ([M+H]+).

reactant | 4-(bromomethyl)-3-chlorobenzaldehyde | 9 mmol, 2 g | BrCC1=C(C=C(C=O)C=C1)Cl | C8H6BrClO
reactant | K2CO3 | 17.16 mmol, 2.36 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-aminopyridine | 8.58 mmol, 0.84 g | NC1=NC=CC=C1 | C5H6N2
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | H2O | O | H2O
product | 3-Chloro-4-((pyridin-2-ylamino)methyl)benzaldehyde | 1.05 g, 50% | ClC=1C=C(C=O)C=CC1CNC1=NC=CC=C1 | C13H11ClN2O
